US08476197B2
Allyl (2Z)-3-(3-bromo-2-thienyl)-2-cyano-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylate (0.1 g, 0.212 mmol, 1 eq.) was dissolved in 5 ml of DCM under Argon and cooled to 0° C. Pyrrolidine (0.018 g, 0.255 mmol, 1.2 eq.) added followed by triphenylphosphine (0.010 g, 0.038 mmol, 0.18 eq.) and tetrakis(triphenylphosphine)palladium(0) (0.012 g, 0.011 mmol, 0.05 eq.). The reaction was stirred at 0° C. for 2 h at which point no starting material remained. The reaction medium was quenched with aqueous HCl 1N (5 ml) and diluted with water. The organic layer was basified with aqueous 1N NaOH until pH 9 and was extracted again with aqueous 1N NaOH. The aqueous layers were combined, acidified with aqueous 1N HCl and extracted with DCM (CH2Cl2). The organic layers were combined, dried over MgSO4 and concentrated under vacuum to give (2Z)-3-(3-bromo-2-thienyl)-2-cyano-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylic acid (0.075 g, 87% yield) as a white solid and a mixture of atropoisomers.

reactant | Allyl (2Z)-3-(3-bromo-2-thienyl)-2-cyano-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylate | 0.212 mmol, 0.1 g, 1 eq. | BrC1=C(SC=C1)/C(=C(/C(=O)OCC=C)\C#N)/NC(C)C=1SC=CN1 | C16H14BrN3O2S2
reactant | Pyrrolidine | 0.255 mmol, 0.018 g, 1.2 eq. | N1CCCC1 | C4H9N
reactant | triphenylphosphine | 0.038 mmol, 0.010 g, 0.18 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.011 mmol, 0.012 g, 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2Z)-3-(3-bromo-2-thienyl)-2-cyano-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylic acid | 0.075 g, 87% yield | BrC1=C(SC=C1)/C(=C(/C(=O)O)\C#N)/NC(C)C=1SC=CN1 | C13H10BrN3O2S2
